US07338960B2
Ethyl (2E)-3-[4-hydroxy-3,5-bis(methyloxy)phenyl]-2-propenoate
To a stirred solution of triethyl phosphonoacetate (0.60 mL, 3.02 mmol) in THF (5 mL) was added portion-wise NaH (60% dispersion in mineral oil, 360 mg, 9.00 mmol) over 2-3 mins. After effervescence had ceased, 4-hydroxy-3,5-dimethoxybenzaldehyde (547 mg, 3.00 mmol) was added portion-wise, washing in with THF (3 mL). More THF (2×2 mL) was added to the thick slurry and the resulting mixture was then heated to reflux for 21 hours. The mixture was then allowed to cool slowly to ambient temperature and the reaction quenched by the careful addition of saturated aqueous NH4Cl (20 mL). The organic solvent was then removed under vacuum and the resulting aqueous mixture was then extracted with DCM (10 mL, 5 mL and then 2 mL) using hydrophobic frits. The filtrate was then treated with Polymer Supported-TsNHNH2 resin (loading 3.22 mmol/g, 1.62 g, 5.23 mmol (3 eq wrt unreacted aldehyde)) and the mixture stirred for 16 hours to remove any unreacted aldehyde. The resin was then removed by filtration washing with DCM (5 mL, 10 mL and then 5 mL) and the filtrate reduced under vacuum to give the title compound (221 mg).

reactant | NaH | 9.00 mmol, 360 mg | [H-].[Na+]
reactant | 4-hydroxy-3,5-dimethoxybenzaldehyde | 3.00 mmol, 547 mg | OC1=C(C=C(C=O)C=C1OC)OC | C9H10O4
reactant | TsNHNH2 | 5.23 mmol, 1.62 g, 3 eq | S(=O)(=O)(C1=CC=C(C)C=C1)NN | C7H10N2O2S
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | Ethyl (2E)-3-[4-hydroxy-3,5-bis(methyloxy)phenyl]-2-propenoate | 221 mg | OC1=C(C=C(C=C1OC)/C=C/C(=O)OCC)OC | C13H16O5
